* C:\Users\Jason\Downloads\Real\Real\CSourcesANDVSourcesANDResistors\FinalTest_VSource_CSource_R.asc
V1 N011 0 5
V2 N009 N011 5
V5 N003 N002 -5
V6 N005 N001 10
V7 N013 N003 5
R1 N012 0 10
R2 N013 0 10
R3 N007 N010 10
R4 N010 N001 10
R5 N003 N008 10
R6 N003 N002 10
R7 N007 N002 10
R8 N002 N001 10
R9 N004 N003 10
R10 N004 N003 10
R11 N004 N003 10
R12 N004 N003 10
R13 N006 N004 10
R14 N004 N006 10
R15 N014 N004 10
R16 0 N014 10
I1 N008 N012 5
I2 N009 N005 5
.op
.backanno
.end